US05998470
a) N-benzoyl-N'-methyl-N'-(2-methylpropyl)thiourea
To a stirring solution of N-methylisobutylamine (3.21 g, 36.8 mmol, 4.45 mL) in 40 mL of CHCl3 was added benzoyl isothiocyanate (6.0 g, 36.8 mmol, 4.95 mL). After stirring for 45 min, the solution was concentrated to yield the title compound as a pale yellow solid (9.22 g, 100%). 1HNMR (400 MHz, CDCl3 ;2:1 mixture of rotamers) δ7.86 (d, 2 H), 7.60 (t, 1 H), 7.50 (t, 2 H), 3.90 (d, 2 H), 3.44 (s, 3 H), 3.41 (d, 2 H), 3.27 (s, 3 H), 2.35-2.32 (m, 1 H), 2.13 (m, 1 H), 1.06 (d, 6 H), 0.90 (d, 6 H).

reactant | N-methylisobutylamine | 36.8 mmol, 4.45 mL, 3.21 g | CNCC(C)C | C5H13N
reactant | benzoyl isothiocyanate | 36.8 mmol, 4.95 mL, 6.0 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | CHCl3 | 40 mL | C(Cl)(Cl)Cl | CHCl3
product | N-benzoyl-N'-methyl-N'-(2-methylpropyl)thiourea | 9.22 g, 100% | C(C1=CC=CC=C1)(=O)NC(=S)N(CC(C)C)C | C13H18N2OS
